US06936612B2
4-[6-(6-Benzyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.21 g, 0.36 mmol) prepared as in Example 23, was dissolved in 1:1 chloroform:methanol (15 ml), purged with anhydrous hydrogen chloride gas and stoppered for 3 hours. The mixture was poured into diethyl ether (50 ml) to give a precipitate which was filtered and dried in vacuo to provide 6-benzyl-8-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride (0.162 g). Analyses for C28H31N72.1.5 H2O1.5HCl: Calc'd: C, 57.26; H, 6.09; N, 16.69; Cl (ionic), 9.05; H2O, 4.60. Found: C, 57.95; H, 6.23; N, 16.80; Cl (ionic), 9.87; H2O, 4.59.

reactant | 4-[6-(6-Benzyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 0.21 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)CC2=CC=CC=C2)=O)C2CCCC2 | C33H39N7O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-benzyl-8-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.162 g | Cl.C(C1=CC=CC=C1)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N(C1=O)C1CCCC1 | InChI=1S/C28H31N7O.ClH/c36-27-21(16-20-6-2-1-3-7-20)17-22-18-31-28(33-26(22)35(27)23-8-4-5-9-23)32-25-11-10-24(19-30-25)34-14-12-29-13-15-34;/h1-3,6-7,10-11,17-19,23,29H,4-5,8-9,12-16H2,(H,30,31,32,33);1H
